US04939148
N-(5,7-difluoro-1-naphthylmethyl)-N-methyl-4-tert.butylbenzylamine (process a)
To a mixture of 0.3 g of N-methyl-4-tert.butylbenzylamine, 0.25 g of potassium carbonate and 5 ml of abs. dimethylformamide (DMF) are added dropwise 0.4 g of 5,7-difluoro-1-bromomethylnaphthalene and the mixture stirred overnight at RT. The solvent is removed under vacuum and the residue partitioned between ether and water. The organic phase is dried and evaporated. The pure product is obtained as an oil following chromatography on silica gel (eluant:hexane/ethylacetate=95/5).

reactant | N-methyl-4-tert.butylbenzylamine | 0.3 g | CNCC1=CC=C(C=C1)C(C)(C)C | C12H19N
reactant | potassium carbonate | 0.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5,7-difluoro-1-bromomethylnaphthalene | 0.4 g | FC1=C2C=CC=C(C2=CC(=C1)F)CBr | C11H7BrF2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-(5,7-difluoro-1-naphthylmethyl)-N-methyl-4-tert.butylbenzylamine | FC1=C2C=CC=C(C2=CC(=C1)F)CN(C)CC1=CC=C(C=C1)C(C)(C)C | C23H25F2N
